US09255093B2
To a suspension of 6-bromo-3-methylbenzofuran-2-carboxylic acid (5 g, 19.6 mmol) in 196 mL of MeOH was added SOCl2 (2.9 mL, 39.2 mmol). After the mixture was heated to reflux for 1 hr, the reaction solution became clear, and the color changed to green. The mixture was concentrated to remove part of solvent, and the color of the solution changed to yellow. After cooling to room temperature a white PPT formed, and the suspension was filtered, and the solid was washed with small amounts of EtOAc. The solid was dried under vacuum at 50° C. to give pure methyl 6-bromo-3-methylbenzofuran-2-carboxylate (3.56 g). LCMS retention time=1.58 minutes (LC method 3); MS (m+1)=270.9. 1H NMR (400 MHz, CHLOROFORM-d) δ 2.59 (s, 3H), 3.99 (s, 3H), 7.41-7.47 (m, 1H), 7.48-7.53 (m, 1H), 7.72 (d, J=1.5 Hz, 1H).

reactant | 6-bromo-3-methylbenzofuran-2-carboxylic acid | 19.6 mmol, 5 g | BrC1=CC2=C(C(=C(O2)C(=O)O)C)C=C1 | C10H7BrO3
reactant | SOCl2 | 39.2 mmol, 2.9 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 196 mL | CO | CH4O
product | methyl 6-bromo-3-methylbenzofuran-2-carboxylate | 3.56 g | BrC1=CC2=C(C(=C(O2)C(=O)OC)C)C=C1 | C11H9BrO3
